US05212158
1. t-butyloxycarbonyl-L-leucyl-L-prolinamide
Following the general procedure described previously for t-butyloxycarbonyl-L-phenylalanyl-L-prolinamide, a solution of t-butyloxycarbonyl-L-leucine (32.64 g), in tetrahydrofuran was activated by treatment with N-methylmorpholine (18.22 ml), followed by isobutylchloroformate (16.99 ml) at -5° C. After 15 minutes, L-prolinamide hydrochloride (15.0 g) was added as a solution in dimethylformamide, followed by N-methylmorpholine (18.22 ml) and the mixture stirred overnight at room temperature. The reaction was worked up as described previously to give the desired product, which was used for the next step without further purification.

reactant | t-butyloxycarbonyl-L-phenylalanyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1 | C19H27N3O4
reactant | t-butyloxycarbonyl-L-leucine | 32.64 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | N-methylmorpholine | 18.22 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 16.99 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-prolinamide hydrochloride | 15.0 g | Cl.N1[C@H](C(=O)N)CCC1
reactant | N-methylmorpholine | 18.22 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | t-butyloxycarbonyl-L-leucyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C16H29N3O4
